US06150412
3-(3,4-DIHYDROXY-2,6-DINITROPHENYL)PROPANOIC ACID
Pyridine (16 ml) and concentrated hydrochloride acid (16.6 ml) were heated at 150° C. until the evaporation of water was ceased. 3-(2,6-Dinitro-3-hydroxy-4-methoxyphenyl)propanoic acid (2.3 g) was added and the resulting mixture heated at reflux for two minutes. The product mixture was cooled to about 150° C. and poured to ice water. The mixture was extracted with ethyl acetate and the product finally recrystallized from acetic acid. Yield: 0.93 g, melting point 165-166° C. NMR-data identical to that of example 11.

reactant | Pyridine | 16 ml | N1=CC=CC=C1 | C5H5N
reactant | hydrochloride | 16.6 ml | Cl | ClH
reactant | 3-(2,6-Dinitro-3-hydroxy-4-methoxyphenyl)propanoic acid | 2.3 g | [N+](=O)([O-])C1=C(C(=CC(=C1O)OC)[N+](=O)[O-])CCC(=O)O | C10H10N2O8
solvent | water | O | H2O
product | 3-(3,4-DIHYDROXY-2,6-DINITROPHENYL)PROPANOIC ACID | OC=1C(=C(C(=CC1O)[N+](=O)[O-])CCC(=O)O)[N+](=O)[O-] | C9H8N2O8
